US09376433B2
To a solution of 3-[4-(1-azido-1-methyl-ethyl)-phenyl]-7-fluoro-2H-isoquinolin-1-one (141 mg, 0.44 mmol) in 4 ml THF are added zinc dust (143 mg, 2.19 mmol) and acetic acid (250 μl, 4.37 mmol) and the mixture is stirred for 18 hours at room temperature. The suspension is diluted with THF and acidified with a small amount of 25% hydrochloric acid to obtain a clear solution. More THF and methanol are added. The mixture is filtered and the filtrate is evaporated. The residue is triturated with water, the solids are filtered off, washed with water and dried under vacuum to afford 3-[4-(1-amino-1-methyl-ethyl)-phenyl]-7-fluoro-2H-isoquinolin-1-one hydrochloride as white solid;

reactant | 3-[4-(1-azido-1-methyl-ethyl)-phenyl]-7-fluoro-2H-isoquinolin-1-one | 0.44 mmol, 141 mg | N(=[N+]=[N-])C(C)(C)C1=CC=C(C=C1)C=1NC(C2=CC(=CC=C2C1)F)=O | C18H15FN4O
reactant | acetic acid | 4.37 mmol, 250 μl | C(C)(=O)O | C2H4O2
reactant | hydrochloric acid | Cl | ClH
reactant | methanol | CO | CH4O
solvent | THF | 4 ml | C1CCOC1 | C4H8O
catalyst | zinc | 2.19 mmol, 143 mg | [Zn] | Zn
product | 3-[4-(1-amino-1-methyl-ethyl)-phenyl]-7-fluoro-2H-isoquinolin-1-one hydrochloride | Cl.NC(C)(C)C1=CC=C(C=C1)C=1NC(C2=CC(=CC=C2C1)F)=O | InChI=1S/C18H17FN2O.ClH/c1-18(2,20)13-6-3-11(4-7-13)16-9-12-5-8-14(19)10-15(12)17(22)21-16;/h3-10H,20H2,1-2H3,(H,21,22);1H
